US08791134B2
1-Methyl-piperidin-4-one oxime was prepared from 1-methyl-piperidin-4-one and hydroxylamine hydrochloride using conditions of General Method 1. 1H NMR (400 MHz, DMSO-d6) δ 10.31 (1H, s), 2.45 (2H, t, 6.1 Hz), 2.38 (2H, t, 5.9 Hz), 2.31 (2H, t, J=6.0 Hz), 2.20 (2H, t, 6.4 Hz), 2.18 (3H, s).

reactant | 1-methyl-piperidin-4-one | CN1CCC(CC1)=O | C6H11NO
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-Methyl-piperidin-4-one oxime | CN1CCC(CC1)=NO | C6H12N2O
